US09388180B2
2.4 N-(5-bromothiazol-4-yl)acetamide
1-Bromopyrrolidine-2,5-dione (0.48 g, 2.67 mmol) was added to the solution of N-(thiazol-4-yl)acetamide (0.38 g, 2.67 mmol) in AcOH/THF (10 mL/10 mL). The mixture was heated to 25° C. for 2 h. The solvent was removed and the solution was adjusted to pH˜9 with 2 N NaOH solution. It was extracted with EA (3×50 mL), the combined organic phase was washed with brine, dried with Na2SO4 and concentrated to give the title compound (1.32 g, 1.45 mmol, 54.2%) as light yellow solid.

reactant | 1-Bromopyrrolidine-2,5-dione | 2.67 mmol, 0.48 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-(thiazol-4-yl)acetamide | 2.67 mmol, 0.38 g | S1C=NC(=C1)NC(C)=O | C5H6N2OS
solvent | AcOH THF | 10 mL | CC(=O)O.C1CCOC1
product | N-(5-bromothiazol-4-yl)acetamide | 1.45 mmol, 1.32 g, 54.2% | BrC1=C(N=CS1)NC(C)=O | C5H5BrN2OS
